US07994164B2
(R)-1-Methyl-2-morpholin-4-yl-ethylaminehydrochloride
Add 1.6 M hydrogen chloride in dioxane (120 mL) to a solution of (R)-(1-methyl-2-morpholin-4-yl-ethyl)-carbamic acid tert-butyl ester (0.05 mol, 12 g) in dry dichloromethane (75 mL) at 0° C. Warm the reaction mixture to room temperature and stir for 2 h. Filter the precipitate and dry under vacuum to obtain the title compound (9.2 g, 86%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.29 (d, 3H), 3.10 (br s, 2H), 3.38 (br s, 4H), 3.79 (br s, 5H).

reactant | hydrogen chloride | 1.6 M | Cl | ClH
reactant | (R)-(1-methyl-2-morpholin-4-yl-ethyl)-carbamic acid tert-butyl ester | 0.05 mol, 12 g | C(C)(C)(C)OC(N[C@@H](CN1CCOCC1)C)=O | C12H24N2O3
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (R)-1-Methyl-2-morpholin-4-yl-ethylaminehydrochloride | 9.2 g, 86% | Cl.C[C@H](CN1CCOCC1)N | InChI=1S/C7H16N2O.ClH/c1-7(8)6-9-2-4-10-5-3-9;/h7H,2-6,8H2,1H3;1H/t7-;/m1./s1
